US20010014691A1
(3-(3-Methoxyphenoxy)propyl)methylamine
Crude 3-chloro-1-(3-methoxyphenoxy)propane (1.27 g, 6.33 mmol) was dissolved in methanol (25 mL) and added to a 40 wt % aqueous solution of methylamine (25 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 100° C. (oil bath temperature) for 4 h. After cooling, the solution was concentrated by rotary evaporation, and saturated NaCl solution (50 mL) was added. The mixture was acidified to pH 1 with 10% HCl solution, and extracted with CHCl3 (4×25 mL) to remove impurities. The pH of the aqueous phase was adjusted to 7 with 10% NaOH solution, and the mixture was extracted with ether (4×30 mL) to remove impurities. The aqueous phase was basified with 100% NaOH solution to pH 11. The mixture was extracted with ether (4×50 mL). The combined ether extracts were dried (MgSO4), filtered and concentrated by rotary evaporation to give a residue. The residue was briefly dried under high vacuum producing a light-brown oil (0.11 g). The oil was purified by column chromatography on silica gel (10 g) eluting with CHCl3-CH3OH (1:1, v/v) to remove impurities, followed by CHCl3-CH3OH-Et3N (50:50:2, v/v/v) to collect the product (Rf 0.27). Selected fractions containing the product were combined and concentrated by rotary evaporation. The resulting brown oil was dissolved in CHCl3, and the CHCl3 solution was dried (MgSO4), filtered and concentrated by rotary evaporation to a residue. The residue was dried briefly under vacuum to give 0.021 g (1.7%) of a light-brown oil. The compound exhibits a Ki of 5300 nM.

reactant | 3-chloro-1-(3-methoxyphenoxy)propane | 6.33 mmol, 1.27 g | ClCCCOC1=CC(=CC=C1)OC | C10H13ClO2
reactant | methylamine | 25 mL | CN | CH5N
solvent | methanol | 25 mL | CO | CH4O
product | (3-(3-Methoxyphenoxy)propyl)methylamine | 0.11 g | COC=1C=C(OCCCNC)C=CC1 | C11H17NO2
